US07531532B2
Pyrrolidine-1-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridin-2-yl]amide
To a solution of pyrrolidine-1-carboxylic acid [4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]amide (775 mg) in ethanol (50 ml) were added electrolytic iron powder (505 mg), ammonium chloride (967 mg) and water (10 ml), followed by stirring to heat at 90° C. for 30 min. The reaction mixture was cooled down to room temperature, and filtered to remove an insoluble portion, which was then washed with water and N,N-dimethylformamide in this order. The filtrate was concentrated under a reduced pressure to give a residue, which was partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which ethyl acetate (10 ml) was added, followed by allowing to stand at room temperature. After a solid precipitated, diethyl ether (30 ml) was added thereto, followed by stirring at room temperature for 2 hrs. The solid was filtered off, and dried under aeration to provide the titled compound (467 mg, 66.2%) as powder.

reactant | pyrrolidine-1-carboxylic acid [4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]amide | 775 mg | CC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C17H18N4O4
reactant | ammonium chloride | 967 mg | [Cl-].[NH4+]
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 505 mg | [Fe] | Fe
product | Pyrrolidine-1-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridin-2-yl]amide | 467 mg, 66.2% | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)C | C17H20N4O2
